US03946004
Reaction of 3-chlorophenoxazine with 2-chloro-(1-pyrrolin-2-yl)pyrroline hydrochloride according to the procedure of Example 7 affords 3-CHLORO-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]-PHENOXAZINE HYDROCHLORIDE, m.p. 262.5°-270° C. (dec.) (corr.), from ethanol-ether.

reactant | 3-chlorophenoxazine | ClC=1C=CC=2NC3=CC=CC=C3OC2C1 | C12H8ClNO
reactant | 2-chloro-(1-pyrrolin-2-yl)pyrroline hydrochloride | Cl.ClC=1N(CCC1)C1=NCCC1
product | 3-CHLORO-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]-PHENOXAZINE HYDROCHLORIDE | Cl.ClC=1C=CC=2N(C3=CC=CC=C3OC2C1)C=1N(CCC1)C1=NCCC1 | InChI=1S/C20H18ClN3O.ClH/c21-14-9-10-16-18(13-14)25-17-6-2-1-5-15(17)24(16)20-8-4-12-23(20)19-7-3-11-22-19;/h1-2,5-6,8-10,13H,3-4,7,11-12H2;1H
